US09102688B2
6-Ethoxy-8-nitroquinoline (Intermediate 35)
In a similar fashion using route 10 general procedure 20, 4-ethoxy-2-nitroaniline (1.0 g, 5.49 mmol), glycerol (1.6 g, 17.0 mmol) and 3-nitrobenzenesulfonic acid sodium salt (1.6 g, 7.14 mmol) gave the title compound (900 mg, 75%) which was used in the next step without purification.

reactant | 4-ethoxy-2-nitroaniline | 5.49 mmol, 1.0 g | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | glycerol | 17.0 mmol, 1.6 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 7.14 mmol, 1.6 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
product | 6-Ethoxy-8-nitroquinoline | 900 mg, 75% | C(C)OC=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C11H10N2O3
